US08957093B2
Step 1: (S)-1-((2′-(hydrazinocarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide
To the mixture of (S)-4′-((5-((1-(3-isopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid (0.11 g, 0.201 mmol), hydrazine hydrochloride (0.028 g, 0.402 mmol) and HATU (0.092 g, 0.24 mmol) in DCM (2 mL) was added DIEA (0.14 mL, 0.8 mmol). The mixture was stirred at room temperature for 16 h. The solvent was removed and the residue was purified by silica gel to obtain the title compound. ESI-MS (m/z): 559 [M+H]+.

reactant | (S)-4′-((5-((1-(3-isopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | 0.201 mmol, 0.11 g | C(C)(C)C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C36H36N2O3
reactant | hydrazine hydrochloride | 0.402 mmol, 0.028 g | Cl.NN
reactant | HATU | 0.24 mmol, 0.092 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.8 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-((2′-(hydrazinocarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide | N(N)C(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)N[C@@H](C)C1=CC(=CC=C1)C(C)C)C)C | C36H38N4O2
